US04558155
2-(3,5-Dichlorophenoxy)ethanamine, Hydrochloride
A mixture of 105.5 g (0.31 mole) of 2-[2-(3,5-dichlorophenoxy)ethyl]-1H-isoindole-1,3-(2H)-dione and 24.5 (0.41 mole) 85% hydrazine hydrate in 1 liter of 95% ethanol was heated at reflux for 4 hr. A white solid was filtered off and discarded. The filtrate was stripped to dryness and the residue partitioned between water and chloroform. The chloroform layer was washed with aqueous 10% sodium hydroxide solution and then extracted with 1N sulfuric acid. The aqueous acidic layer was made alkaline and extracted with chloroform. The chloroform layer was dried over magnesium sulfate and evaporated to obtain an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride to give white crystalline product in 43.2% yield, m.p. 229°-231° C.

reactant | 2-[2-(3,5-dichlorophenoxy)ethyl]-1H-isoindole-1,3-(2H)-dione | 0.31 mole, 105.5 g | ClC=1C=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Cl | C16H11Cl2NO3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 2-(3,5-Dichlorophenoxy)ethanamine, Hydrochloride | 43.2% yield | Cl.ClC=1C=C(OCCN)C=C(C1)Cl | InChI=1S/C8H9Cl2NO.ClH/c9-6-3-7(10)5-8(4-6)12-2-1-11;/h3-5H,1-2,11H2;1H
